US04636523
A mixture of 2.3 g N-[4-(2-bromo-1,1,2,2-tetrafluoroethoxy)-3,5-dichlorophenyl]phthalimide (0.0062 mole) and 0.25 g (0.0068 mole) hydrazine hydrate in 50 ml of ethanol was heated at reflux for one hour. Most of the solvent was removed by distillation under reduced pressure, and the residual liquid was poured into water. This mixture was extracted with three 150 ml portions of diethyl ether and the extracts were combined. This organic solution was washed with 200 ml of an aqueous 2N sodium hyroxide solution. The washed organic solution was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to yield 5-amino-7-chloro-2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran as an oil. The nmr and ir spectra were consistent with the proposed structure.

reactant | N-[4-(2-bromo-1,1,2,2-tetrafluoroethoxy)-3,5-dichlorophenyl]phthalimide | 0.0062 mole, 2.3 g | BrC(C(OC1=C(C=C(C=C1Cl)N1C(C=2C(C1=O)=CC=CC2)=O)Cl)(F)F)(F)F | C16H6BrCl2F4NO3
reactant | hydrazine hydrate | 0.0068 mole, 0.25 g | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-amino-7-chloro-2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran | NC=1C=C(C2=C(C(C(O2)(F)F)(F)F)C1)Cl | C8H4ClF4NO
